US09260427B2
To a solution of (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid Compound 85 (78.0 mg, 0.13 mmol), methanesulfonamide (20.0 mg, 0.21 mmol), and DMAP (16.1 mg, 0.13 mmol) in DMF (1.5 mL) was added EDC (40.3 mg, 0.21 mmol) and the solution stirred overnight at room temperature. The reaction mixture was diluted in EA (50 mL), washed with aqueous saturated sodium bicarbonate (2×20 mL) and brine (20 mL). The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. The crude product was purified by chromatography (hexane/EA) to afford 36 mg (40%) of (S)-4-(tert-butyl)-N-(3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)-1-(methylsulfonamido)-1-oxopropan-2-yl)benzamide, Compound 299 as a colorless solid. LCMS-ESI (m/z) calculated for C38H46N4O5S: 670.3. found 671.3 [M+H]+, tR=11.01 min (Method 10).

reactant | (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C37H43N3O4
reactant | methanesulfonamide | 0.21 mmol, 20.0 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDC | 0.21 mmol, 40.3 mg
catalyst | DMAP | 0.13 mmol, 16.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EA | 50 mL | CC(OCC)=O | C4H8O2
product | (S)-4-(tert-butyl)-N-(3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)-1-(methylsulfonamido)-1-oxopropan-2-yl)benzamide | 36 mg, 40% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NS(=O)(=O)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C38H46N4O5S
